### PR TITLE
[Merged by Bors] - feat: order properties of `Finset.expect`

### PR DESCRIPTION
**Pull request by YaelDillies**
Also add a few basic lemmas and fix the delaborator in `Algebra.BigOperators.Expect`.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 1]
```diff
@@ -24,20 +27,9 @@ This file defines `Finset.expect`, the average (aka expectation) of a function o
   as `expectWith` in lemma names.
 * `𝔼 (i ∈ s) (j ∈ t), f i j` is notation for `Finset.expect (s ×ˢ t) (fun ⟨i, j⟩ ↦ f i j)`.
 
-## Implementation notes
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:27]: Was this removal intentional?

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 2]
```diff
@@ -0,0 +1,174 @@
...
+
+lemma abs_expect_le_expect_abs (s : Finset ι) (f : ι → α) : |𝔼 i ∈ s, f i| ≤ 𝔼 i ∈ s, |f i| :=
+  le_expect_of_subadditive _ abs_zero abs_add (fun _ _ ↦ abs_nnqsmul _ _) _ _
+
+end LinearOrderedAddCommGroup
+
+section LinearOrderedCommSemiring
+variable [LinearOrderedCommSemiring R] [ExistsAddOfLE R] [Module ℚ≥0 R] [PosSMulMono ℚ≥0 R]
+
+/-- **Cauchy-Schwarz inequality** for finsets. -/
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:99]: Let's mention that this is about 𝔼 too here

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 3]
```diff
@@ -238,18 +236,10 @@ most arguments. -/
 lemma expect_equiv (e : ι ≃ κ) (hst : ∀ i, i ∈ s ↔ e i ∈ t) (hfg : ∀ i ∈ s, f i = g (e i)) :
     𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by simp_rw [expect, card_equiv e hst, sum_equiv e hst hfg]
 
-/-- Expectation over a product set equals the expectation of the fiberwise expectations.
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:241]: These removals look unintentional

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 4]
```diff
@@ -0,0 +1,174 @@
...
+convenient for the `gcongr` tactic. -/
+@[gcongr]
+lemma _root_.GCongr.expect_le_expect (h : ∀ i ∈ s, f i ≤ g i) : s.expect f ≤ s.expect g :=
+  Finset.expect_le_expect h
+
+lemma expect_le (hs : s.Nonempty) (f : ι → α) (a : α) (h : ∀ x ∈ s, f x ≤ a) : 𝔼 i ∈ s, f i ≤ a :=
+  (inv_smul_le_iff_of_pos <| mod_cast hs.card_pos).2 <| by
+    rw [Nat.cast_smul_eq_nsmul]; exact sum_le_card_nsmul _ _ _ h
+
+lemma le_expect (hs : s.Nonempty) (f : ι → α) (a : α) (h : ∀ x ∈ s, a ≤ f x) : a ≤ 𝔼 i ∈ s, f i :=
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:52]: Would be great to have contrapositives of these: if the expectation is more than a, then some value is more than a. I'd prefer a TODO here and a different PR, but they're close enough to these that putting them here is fine too.

File: Mathlib/Algebra/BigOperators/Expect.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Expect.lean:27]: Whoops, no. Will fix

File: Mathlib/Analysis/MeanInequalities.lean [hunk 5]
```diff
@@ -660,6 +662,18 @@ lemma inner_le_weight_mul_Lp_of_nonneg (s : Finset ι) {p : ℝ} (hp : 1 ≤ p)
...
 
+/-- **Weighted Hölder inequality** in terms of `Finset.expect`. -/
+lemma compact_inner_le_weight_mul_Lp_of_nonneg (s : Finset ι) {p : ℝ} (hp : 1 ≤ p) {w f : ι → ℝ}
+    (hw : ∀ i, 0 ≤ w i) (hf : ∀ i, 0 ≤ f i) :
+    𝔼 i ∈ s, w i * f i ≤ (𝔼 i ∈ s, w i) ^ (1 - p⁻¹) * (𝔼 i ∈ s, w i * f i ^ p) ^ p⁻¹ := by
+  simp_rw [expect_eq_sum_div_card]
+  rw [div_rpow, div_rpow, div_mul_div_comm, ← rpow_add', sub_add_cancel, rpow_one]
+  gcongr
+  exact inner_le_weight_mul_Lp_of_nonneg s hp _ _ hw hf
+  any_goals simp
```
Comment (b-mehta) [inline Mathlib/Analysis/MeanInequalities.lean:673]: This is a nonterminal simp on the goals which it doesn't close, correct?

File: Mathlib/Analysis/MeanInequalities.lean [hunk 6]
```diff
@@ -660,6 +662,18 @@ lemma inner_le_weight_mul_Lp_of_nonneg (s : Finset ι) {p : ℝ} (hp : 1 ≤ p)
...
   exact NNReal.inner_le_weight_mul_Lp _ hp _ _
 
+/-- **Weighted Hölder inequality** in terms of `Finset.expect`. -/
+lemma compact_inner_le_weight_mul_Lp_of_nonneg (s : Finset ι) {p : ℝ} (hp : 1 ≤ p) {w f : ι → ℝ}
+    (hw : ∀ i, 0 ≤ w i) (hf : ∀ i, 0 ≤ f i) :
+    𝔼 i ∈ s, w i * f i ≤ (𝔼 i ∈ s, w i) ^ (1 - p⁻¹) * (𝔼 i ∈ s, w i * f i ^ p) ^ p⁻¹ := by
+  simp_rw [expect_eq_sum_div_card]
+  rw [div_rpow, div_rpow, div_mul_div_comm, ← rpow_add', sub_add_cancel, rpow_one]
+  gcongr
+  exact inner_le_weight_mul_Lp_of_nonneg s hp _ _ hw hf
```
Comment (b-mehta) [inline Mathlib/Analysis/MeanInequalities.lean:672]: This looks like it should fail the single-goal linter

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 7]
```diff
@@ -0,0 +1,186 @@
...
+      let instαordmon ← synthInstanceQ q(OrderedCancelAddCommMonoid $α)
+      let instαordsmul ← synthInstanceQ q(PosSMulStrictMono ℚ≥0 $α)
+      assumeInstancesCommute
+      let pr : Q(∀ i, 0 < $f i) ← mkLambdaFVars lhs pb
+      return .positive q(@expect_pos $ι $α $instαordmon $instmod $s $f $instαordsmul
+        (fun i _ ↦ $pr i) $fi)
+    | _, _ => pure .none
+  | _ => throwError "not Finset.expect"
+
+example (n : ℕ) (a : ℕ → ℚ) : 0 ≤ 𝔼 j ∈ range n, a j^2 := by positivity
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: Could be useful to have a separate file for testing positivity extensions...

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: The point of having the tests right after the extensions is that the way positivity works implies that it works cumulatively: If positivity proves a goal, then importing more things will not make it not prove that goal anymore

Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: This sounds like it's an argument for centralising the extensions! The idea is that if they're all in one place, it's easy to test all the extensions simultaneously - we already have a test file for positivity, and I'm saying we should extend/imitate that one, rather than placing them sporadically throughout mathlib

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: > This sounds like it's an argument for centralising the extensions!

Can you expand? I don't understand how "positivity extensions work cumulatively" implies "positivity extensions should all be defined in the same place"

Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: I'm not saying they should all be defined in the same place! I'm saying they should all be _tested_ in the same place, and cumulativity implies this is just as fair a way of testing. The locations they're currently defined is better
(I realise now that the first sentence in my last message made this unclear - sorry!)

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: > cumulativity implies this is just as fair a way of testing

Maybe, but testing in the individual files means you get much faster feedback when debugging the extension. This is nonnegligible

Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: Note that what you're suggesting is inconsistent with the way positivity extensions are already tested, inconsistent with the rest of mathlib, and inconsistent with general software design principles. What is so special about the way that this particular positivity extension works that means it deserves to be treated differently?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: > inconsistent with the way positivity extensions are already tested

Factually incorrect: Grepping `example.*positivity` returns examples in 12 files that are not `test.positivity`. That's roughly a third of the files containing positivity extensions

> inconsistent with the rest of mathlib

Explained by the fact that positivity extensions are cumulative, which is a pretty rare feature among mathlib tactics

> inconsistent with general software design principles

Citation needed, but sure I'll concede

Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: Really what I'm saying is: two thirds of the positivity extensions are tested in one place (the `test/` folder), and these ones should be tested there too.

Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: Anyway I think it's bad to have tests scattered like this, but I won't block the PR on it

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:178]: I think it makes a lot of sense scattered, so 🤷 Let's find something more interesting to talk about

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 8]
```diff
@@ -98,7 +101,7 @@ to show the domain type when the expect is over `Finset.univ`. -/
         `(bigOpBinder| $(.mk i):ident)
     `(𝔼 $binder:bigOpBinder, $body)
   else
-    let ss ← withNaryArg 3 <| delab
+    let ss ← withNaryArg 4 <| delab
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:104]: What's this change doing? Or more specifically, how do I know there won't be n more PRs incrementing the number again :D

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 9]
```diff
@@ -0,0 +1,186 @@
...
+  smul_nonneg (by positivity) <| sum_nonneg hf
+
+end PosSMulMono
+
+section PosSMulMono
+variable {M N : Type*} [AddCommMonoid M] [Module ℚ≥0 M] [OrderedAddCommMonoid N] [Module ℚ≥0 N]
+  [PosSMulMono ℚ≥0 N]
+
+-- TODO: Contribute back better docstring to `le_prod_of_submultiplicative`
+/-- If `m` is a subadditive function (`m (x + y) ≤ m x + m y`, `f 1 = 1`), and `f i`,
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:66]:
```suggestion
/-- If `m` is a subadditive function (`m (x + y) ≤ m x + m y`, `m 0 = 0`), and `f i`,
```

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 10]
```diff
@@ -0,0 +1,186 @@
...
+`i ∈ s`, is a finite family of elements, then `m (𝔼 i in s, f i) ≤ 𝔼 i in s, m (f i)`. -/
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:67]:
```suggestion
/-- If `m` is a subadditive function (`m (x + y) ≤ m x + m y`, `f 1 = 1`), and 
`{f i}_{i ∈ s}`, is a finite family of elements, then `m (𝔼 i in s, f i) ≤ 𝔼 i in s, m (f i)`. -/
```
or something like this? It wasn't entirely clear to me what you meant originally

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 9 above)
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:66]: This docstring doesn't include something for `h_div`

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 11]
```diff
@@ -0,0 +1,186 @@
...
+lemma le_expect_of_subadditive (m : M → N) (h_zero : m 0 = 0)
+    (h_add : ∀ a b, m (a + b) ≤ m a + m b) (h_div : ∀ a (n : ℕ), m (a /ℚ n) = m a /ℚ n)
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:69]: hmm, I wonder if there's a way of stating this so that h_add only needs to hold on a subset of M, maybe the submonoid generated by `f '' s`? Can be a todo

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 12]
```diff
@@ -0,0 +1,186 @@
...
+
+lemma lt_of_expect_lt (hs : s.Nonempty) (h : 𝔼 i ∈ s, f i < a) : ∃ x ∈ s, f x < a := by
+  contrapose! h; exact le_expect hs h
+
+end LinearOrderedAddCommMonoid
+
+section LinearOrderedAddCommGroup
+variable [LinearOrderedAddCommGroup α] [Module ℚ≥0 α] [PosSMulMono ℚ≥0 α]
+
+lemma abs_expect_le_expect_abs (s : Finset ι) (f : ι → α) : |𝔼 i ∈ s, f i| ≤ 𝔼 i ∈ s, |f i| :=
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:103]: norm version? also can be todo

**Review by b-mehta — COMMENTED** [review]
Looks pretty decent overall!

File: Mathlib/Algebra/BigOperators/Expect.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Expect.lean:104]: Before this PR, `𝔼 i, f i` pretty-prints as `𝔼 i : Module ℚ≥0 M, f i`. After this PR, it will pretty-print as `𝔼 i : ι, f i`. I just originally mistakenly copied the argument numbers from the `Finset.sum` delaborator without tweaking them.

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:67]: Actually, let's just do
```suggestion
/-- If `m` is a subadditive function (`m (x + y) ≤ m x + m y`, `m 1 = 1`),
then `m (𝔼 i ∈ s, f i) ≤ 𝔼 i ∈ s, m (f i)`. -/
```

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:103]: It's in APAP already. Can add it, but it will become a new file

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean:67]: that works too, but note `m 0 = 0`, not 1

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean]: The lemmas already existed for `sum`. I copied them over

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 13]
```diff
@@ -0,0 +1,217 @@
...
+    | _, _ => pure .none
+  | _ => throwError "not Finset.expect"
+
+example (n : ℕ) (a : ℕ → ℚ) : 0 ≤ 𝔼 j ∈ range n, a j^2 := by positivity
+example (a : ULift.{2} ℕ → ℚ) (s : Finset (ULift.{2} ℕ)) : 0 ≤ 𝔼 j ∈ s, a j^2 := by positivity
+example (n : ℕ) (a : ℕ → ℚ) : 0 ≤ 𝔼 j : Fin 8, 𝔼 i ∈ range n, (a j^2 + i ^ 2) := by positivity
+example (n : ℕ) (a : ℕ → ℚ) : 0 < 𝔼 j : Fin (n + 1), (a j^2 + 1) := by positivity
+example (a : ℕ → ℚ) : 0 < 𝔼 j ∈ ({1} : Finset ℕ), (a j^2 + 1) := by
+  have : Finset.Nonempty {1} := singleton_nonempty 1
+  positivity
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:215]: This is a bit weird to me - can't positivity figure out that {1} is nonempty?

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 14]
```diff
@@ -391,14 +405,19 @@ See `Equiv.expect_comp` for a version without `h`. -/
 lemma expect_equiv (e : ι ≃ κ) (f : ι → M) (g : κ → M) (h : ∀ i, f i = g (e i)) :
     𝔼 i, f i = 𝔼 i, g i := expect_bijective _ e.bijective f g h
 
-lemma expect_const [Nonempty ι] (a : M) : 𝔼 _i : ι, a = a := Finset.expect_const univ_nonempty _
+@[simp] lemma expect_const [Nonempty ι] (a : M) : 𝔼 _i : ι, a = a :=
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:408]: This is the same one that you're marking not simp in another PR, yes?

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Expect.lean:408]: Now that `univ_nonempty` is simp, I can indeed unsimp this PR

File: Mathlib/Algebra/Order/BigOperators/Expect.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Expect.lean]: Well spotted. This was accidentally the pre-`proveFinsetNonempty` version of the extension

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 15]
```diff
@@ -0,0 +1,211 @@
...
+  smul_pos (inv_pos.2 <| mod_cast hs.card_pos) <| sum_pos hf hs
+
+end PosSMulStrictMono
+end OrderedCancelAddCommMonoid
+
+section LinearOrderedAddCommMonoid
+variable [LinearOrderedAddCommMonoid α] [Module ℚ≥0 α] [PosSMulMono ℚ≥0 α] {s : Finset ι}
+  {f : ι → α} {a : α}
+
+lemma lt_of_lt_expect (hs : s.Nonempty) (h : a < 𝔼 i ∈ s, f i) : ∃ x ∈ s, a < f x := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:122]:
```suggestion
lemma exists_lt_of_lt_expect (hs : s.Nonempty) (h : a < 𝔼 i ∈ s, f i) : ∃ x ∈ s, a < f x := by
```

File: Mathlib/Algebra/Order/BigOperators/Expect.lean [hunk 16]
```diff
@@ -0,0 +1,211 @@
...
+  contrapose! h; exact expect_le hs h
+
+lemma lt_of_expect_lt (hs : s.Nonempty) (h : 𝔼 i ∈ s, f i < a) : ∃ x ∈ s, f x < a := by
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/BigOperators/Expect.lean:125]:
```suggestion
lemma exists_lt_of_expect_lt (hs : s.Nonempty) (h : 𝔼 i ∈ s, f i < a) : ∃ x ∈ s, f x < a := by
```

**Comment by YaelDillies** [comment]
bors merge
